US05183899
5-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl-]-N-isopropylpyrazole-3-carboxamide
To a solution of 5-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]pyrazole-3-carbonyl chloride (550 mg) in dichloromethane (5 ml) were added isopropylamine (0.2 ml) and pyridine (0.2 ml), and the mixture was stirred at room temperature for 0.5 hours. The mixture was then evaporated to dryness under reduced pressure, and the residue was shaken with a mixture of 0.1 N hydrochloric acid (50 ml), dichloromethane (15 ml), and ether (60 ml). The mixture was allowed to separate into layers. The organic layer was washed with an aqueous solution of sodium bicarbonate and dried over anhydrous magnesium sulfate, followed by evaporation of the solvent to give a light yellow syrup (550 mg, 98%).

reactant | 5-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]pyrazole-3-carbonyl chloride | 550 mg | C(CCC)C1=CC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)Cl | C22H20ClN3O
reactant | isopropylamine | 0.2 ml | C(C)(C)N | C3H9N
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl-]-N-isopropylpyrazole-3-carboxamide | 550 mg, 98% | C(CCC)C1=CC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)NC(C)C | C25H28N4O
